US20010047031A1
2,2-Difluoro-4-phenyl-butyric acid ethyl ester (0.23 g, 1 mmol) was dissolved in EtOH (4 ml) and treated with NaBH4 (39.4 mg, 1 mmol). After 30 minutes stirring at room temperature, the reaction mixture was cooled to 0° C., acidified to pH 1 with 1N HCl (2 ml), diluted with H2O (10 ml). The aqueous phase was extracted with ether (3 times). The combined organic phases were dried over Na2SO4, filtered and the solvent was removed in vacuo. The residue was chromatographed over silica gel (hexane-ethylacetate 99:1) to provide 2,2-difluoro-4-phenyl-butan-1-ol (0.11 g, 58%) as light yellow oil, MS: m/e =186.1 (M+).

reactant | 2,2-Difluoro-4-phenyl-butyric acid ethyl ester | 1 mmol, 0.23 g | C(C)OC(C(CCC1=CC=CC=C1)(F)F)=O | C12H14F2O2
reactant | NaBH4 | 1 mmol, 39.4 mg | [BH4-].[Na+]
reactant | HCl | 1N, 2 ml | Cl | ClH
solvent | EtOH | 4 ml | CCO | C2H6O
solvent | H2O | 10 ml | O | H2O
product | 2,2-difluoro-4-phenyl-butan-1-ol | 0.11 g, 58% | FC(CO)(CCC1=CC=CC=C1)F | C10H12F2O
